US07652124B2
7 parts by weight of 4,6-diamino-1,3-benzenediol dihydrochloride was dissolved in 33 parts by weight of water deaerated with nitrogen. 6.180 parts by weight of 2,5-dihydroxyterephthalic acid was dissolved in 64 parts by weight of 1M sodium hydroxide solution and deaerated with nitrogen. The 4,6-diamino-1,3-benzenediol dihydrochloride solution was added dropwise to the disodium 2,5-dihydroxyterephthalate solution over 10 minutes to form a white precipitate of 4,6-diamino-1,3-benzenediol/2,5-dihydroxyterephthalate. In this case, the reaction temperature was kept at 90° C. The obtained salt was filtered, dispersed and mixed into 3,000 parts by weight of water deaerated with nitrogen, and then filtered again. This dispersion, mixing and filtration operation was repeated three times.

reactant | 4,6-diamino-1,3-benzenediol dihydrochloride | Cl.Cl.NC1=C(C=C(C(=C1)N)O)O
reactant | 2,5-dihydroxyterephthalic acid | OC1=C(C(=O)O)C=C(C(=C1)C(=O)O)O | C8H6O6
reactant | disodium 2,5-dihydroxyterephthalate | OC1=C(C(=O)[O-])C=C(C(=C1)C(=O)[O-])O.[Na+].[Na+]
solvent | water | O | H2O
solvent | sodium hydroxide | 1M | [OH-].[Na+]
product | 4,6-diamino-1,3-benzenediol 2,5-dihydroxyterephthalate | NC1=C(C=C(C(=C1)N)O)O.OC1=C(C(=O)[O-])C=C(C(=C1)C(=O)[O-])O | InChI=1S/C8H6O6.C6H8N2O2/c9-5-1-3(7(11)12)6(10)2-4(5)8(13)14;7-3-1-4(8)6(10)2-5(3)9/h1-2,9-10H,(H,11,12)(H,13,14);1-2,9-10H,7-8H2/p-2
